US07863347B2
Next, 63.4 g of the 3,3′-bis(2,2′-dibromoethyl)-5,5′,7,7′-tetramethyl-1,1′-biadamantane obtained above (90.9 mmol), 200 ml of N,N-dimethylsulfoxide and a stirrer were charged in a 500 mL recovery flask. Under nitrogen flow, 28 g of potassium tert-butoxide (250 mmol) was added with agitating at room temperature. After the addition, the mixture was agitated at room temperature for 48 hours. Reaction solution was added to 400 mL of ion-exchange water. An aqueous layer was separated and removed therefrom, and solvent was removed under reduced pressure. Solid thus obtained was dried under reduced pressure, thus obtaining 31.5 g of 3,3′-diethynyl-5,5′,7,7′-tetramethyl-1,1′-biadamantane (84.1 mmol; yield: 92.5%).

reactant | 3,3′-bis(2,2′-dibromoethyl)-5,5′,7,7′-tetramethyl-1,1′-biadamantane | 63.4 g | BrC(CC12CC3(CC(CC(C1)(C3)C)(C2)C)C23CC1(CC(CC(C2)(C1)C)(C3)C)CC(Br)Br)Br | C28H42Br4
reactant | potassium tert-butoxide | 250 mmol, 28 g | CC(C)([O-])C.[K+]
solvent | water | O | H2O
product | 3,3′-diethynyl-5,5′,7,7′-tetramethyl-1,1′-biadamantane | 84.1 mmol, 31.5 g, yield: 92.5% | C(#C)C12CC3(CC(CC(C1)(C3)C)(C2)C)C23CC1(CC(CC(C2)(C1)C)(C3)C)C#C | C28H38
